US07786165B2
ethyl(2Z)-2-fluoro-3-(4-nitrophenyl)acrylate
A solution of ethyl diethylphosphono-2-fluoroacetate (4.90 g, 20.2 mmol) in tetrahydrofuran (40 mL) was stirred under a nitrogen atmosphere at 0° C. and 1.6 M n-butyllithium/hexane solution (13.1 mL, 21.0 mmol) was added dropwise. The reaction mixture was stirred at 0° C. for 30 min, and a solution of 4-nitrobenzaldehyde (3.05 g, 20.2 mmol) in tetrahydrofuran (40 mL) was added dropwise. The mixture was stirred at room temperature for 16 hr, and ice-cooled aqueous ammonium chloride solution was added. The mixture was extracted with ethyl acetate, and the extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (3%-40% ethyl acetate/hexane) to give the title compound (3.46 g, yield 72%) as a yellow powder.

reactant | ethyl diethylphosphono-2-fluoroacetate | 20.2 mmol, 4.90 g | C(C)OP(=O)(OCC)C(C(=O)OCC)F | C8H16FO5P
reactant | n-butyllithium hexane | 21.0 mmol, 1.6 M, 13.1 mL | C(CCC)[Li].CCCCCC
reactant | 4-nitrobenzaldehyde | 20.2 mmol, 3.05 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | ethyl(2Z)-2-fluoro-3-(4-nitrophenyl)acrylate | 3.46 g, yield 72% | F\C(\C(=O)OCC)=C/C1=CC=C(C=C1)[N+](=O)[O-] | C11H10FNO4
